US04952689
To a suspension of 1.75 g of sodium hydride in ml of N,N-dimethylformamide was added a mixture of 11.9 g of N-hydroxyphthalimide and 60 ml of N,N-dimethylformamide, and then the mixture was stirred for minutes. To the reaction solution was added a mixture of 15 g of 3-chloropropyldibutylamine and 10 ml of N,N-dimethylformamide, and then the mixture was heated at reflux for 5 hours. After evaporation of the solvent, ethyl acetate was added to the residue, and the mixture was washed with water. Evaporation of the solvent gave 23.4 g of N-(3-dibutylaminopropoxy)-phthalimide, which was then dissolved in 200 ml of methylene chloride. To the solution was added 20 ml of hydrazine monohydrate, and the mixture was stirred at room temperature for 3 hours. After removal of the insolubles by filtration, the filtrate was concentrated under reduced pressure and distilled under reduced pressure to give 10.3 g of O-(3-dibutylaminopropyl)hydroxylamine.

reactant | sodium hydride | 1.75 g | [H-].[Na+]
reactant | N-hydroxyphthalimide | 11.9 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | 3-chloropropyldibutylamine | 15 g | ClCCCN(CCCC)CCCC | C11H24ClN
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | N-(3-dibutylaminopropoxy)-phthalimide | 23.4 g | C(CCC)N(CCCON1C(C=2C(C1=O)=CC=CC2)=O)CCCC | C19H28N2O3
